US06159901
Production of 6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2,2,2-trichloroethylidene] hydrazide (compound No. I-49)
6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.15 g, 0.000505 mol) was mixed with trichloroacetaldehyde (0.22 g, 0.000505×3.0 mol) and benzene (about 20 ml). The obtained mixture was refluxed for about 3 hours. The obtained reaction solution was distributed in ethyl acetate-saturated sodium bicarbonate water, and the organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated. The obtained concentrated solution was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.000505 mol, 0.15 g | FC(C=1C=C(OC2=CC=CC(=N2)C(=O)NN)C=CC1)(F)F | C13H10F3N3O2
reactant | trichloroacetaldehyde | 3.0 mol, 0.22 g | ClC(C=O)(Cl)Cl | C2HCl3O
reactant | benzene | about 20 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2,2,2-trichloroethylidene] hydrazide | ClC(C=NNC(C1=NC(=CC=C1)OC1=CC(=CC=C1)C(F)(F)F)=O)(Cl)Cl | C15H9Cl3F3N3O2
